US05608056
To a solution of allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(4-carbamoylimidazol-1-yl)ethyl}-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (2.07 g) in dichloromethane (20 ml) was added methyl trifluoromethanesulfonate (1.16 ml) at 0° C. and the solution was stirred for 30 minutes. To the mixture was added a suspension of ion exchange resin, Amberlist A-26 (Cl- type, Trademark, made by Rohm and Haas Co., Ltd.) (10 ml) in dichloromethane (10 ml) and the whole was stirred for 5 minutes. The resin was removed by filtration and washed with a mixture of dichloromethane and methanol (4/1, 50 ml). The filtrate was concentrated in vacuo to give allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(4-carbamoyl-3-methyl-1-imidazolio)ethyl}pyrrolidin-4yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1azabicyclo[3.2.0]hept-2-ene-2-carboxylate chloride (2.75 g) as a pale yellow solid. This compound was immediately used as the starting compound for the next step.

reactant | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(4-carbamoylimidazol-1-yl)ethyl}-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 2.07 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CCN1C=NC(=C1)C(N)=O | C27H35N5O7S
reactant | methyl trifluoromethanesulfonate | 1.16 ml | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(4-carbamoyl-3-methyl-1-imidazolio)ethyl}pyrrolidin-4yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1azabicyclo[3.2.0]hept-2-ene-2-carboxylate chloride | 2.75 g | [Cl-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CC[N+]1=CN(C(=C1)C(N)=O)C | InChI=1S/C28H37N5O7S.ClH/c1-6-10-39-27(37)23-24(16(3)22-21(17(4)34)26(36)33(22)23)41-19-12-18(32(13-19)28(38)40-11-7-2)8-9-31-14-20(25(29)35)30(5)15-31;/h6-7,14-19,21-22,34H,1-2,8-13H2,3-5H3,(H-,29,35);1H/t16-,17-,18-,19+,21-,22-;/m1./s1
